### PR TITLE
many lemmas about sin, cos, arctan.

### PR DESCRIPTION
**Pull request by aa755**
1) new lemmas about Cos and Sin of ArcTan (IR) in tranc.MoreArcTan
2) many lemmas about arctan, CRcos and CRsin (in CoRN.reals.fast.CRSinCos). Most of them are analogs of existing lemmas about IR versions.
3) Using typeclasses, added unicode notations for π and ½ in CoRN.reals.fast.CRSinCos. Should this be moved to MatchClasses.interfaces.canonical_names ?

### CODE REVIEW

File: reals/fast/CRSinCos.v [hunk 1]
```diff
@@ -0,0 +1,459 @@
...
+    ported to CR *)
+
+Require Import CRcos.
+Require Import CRpi.
+Require Import CRsin.
+Require Import CRIR.
+Require Import MathClasses.interfaces.canonical_names.
+Require Import MathClasses.interfaces.abstract_algebra.
+
+Lemma sr_mult_associative `{SemiRing R} (x y z : R) :
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: This and the following lemma seem specific instances of existing automation.
If you really think these should be added, please motivate in comments.

File: reals/fast/CRSinCos.v [hunk 2]
```diff
@@ -0,0 +1,459 @@
...
+Lemma inject_Q_CR_one  : (inject_Q_CR (1#1) [=] 1)%CR.
+ring.
+Qed.
+
+Lemma inject_Q_CR_two  : (inject_Q_CR (2#1) = 2)%CR.
+  rewrite <- inject_Q_CR_one.
+  destruct CR_Q_ring_morphism.
+  idtac. unfold plus, CRplus. rewrite <- morph_add; eauto.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: It's better to have all the `Imports

File: reals/fast/CRSinCos.v [hunk 3]
```diff
@@ -0,0 +1,459 @@
...
+Hint Rewrite CRasIR0 CRasIR_inv CR_mult_asIR 
+  CR_plus_asIR CRpower_N_asIR: CRtoIR .
+
+
+Lemma CREquiv_st_eq: forall a b : CR,
+  st_eq (r:=CR) a  b <-> a = b.
+Proof.
+  reflexivity.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: This seems generally useful and should be moved.

File: reals/fast/CRSinCos.v [hunk 4]
```diff
@@ -0,0 +1,459 @@
...
+Ltac CRRing :=
+    prepareForCRRing; ring.
+
+Definition QCRM := CR_Q_ring_morphism.
+
+Lemma CRPiBy2Correct :
+  (CRpi * ' (1 # 2))%CR = IRasCR (Pi.Pi [/]TwoNZ).
+Proof.
+  apply (right_cancellation mult 2).
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: It would be good to structure this proof using bullets, or at least indentation.

File: reals/fast/CRSinCos.v [hunk 5]
```diff
@@ -0,0 +1,459 @@
...
+  assert ((N.of_nat 2) = (1+(1+0))) as Hs by reflexivity.
+  rewrite Hs.
+  destruct NatPowSpec_instance_0.
+  rewrite nat_pow_S.
+  rewrite nat_pow_S.
+  rewrite nat_pow_0.
+  simpl. prepareForCRRing.
+  unfold CR1. CRRing.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: Requires should be moved

File: reals/fast/CRSinCos.v [hunk 6]
```diff
@@ -0,0 +1,459 @@
...
+  simpl. unfold cf_div. unfold f_rcpcl, f_rcpcl'.
+  simpl. unfold recip,CRinv. 
+  apply CRdivideToMulCRInvT.
+  autorewrite with IRtoCR.
+  rewrite CRasIRasCR_id.
+  simpl. rewrite CRpower_N_2.
+  prepareForCRRing.
+  simpl.  CRRing.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: Can you make this into a Proper ? That would allow setoid_rewrite to work.

File: reals/fast/CRSinCos.v [hunk 7]
```diff
@@ -0,0 +1,459 @@
...
+Lemma CRApart_wdl :forall a b c:CR,
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: This lemma, and a few others should not be in a file about sin and cos.
If you feel uncomfortable changing too many files at once, please put them in the beginning of the file with a comment.
(* Should be moved *)

File: reals/fast/CRSinCos.v [hunk 8]
```diff
@@ -0,0 +1,459 @@
...
+Proof.
+  intros. apply sqr_o_cos_o_arctan.
+Qed.
+
+Lemma sqr_o_sin_o_arctan2 : forall r,
+    (sin (arctan r)) ^2 = (r^2 //(mkCr0' (1 + r^2) (OnePlusSqrPos _))).
+Proof.
+  intros. apply sqr_o_sin_o_arctan.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: Proper ?

File: reals/fast/CRSinCos.v [hunk 9]
```diff
@@ -0,0 +1,459 @@
...
+Lemma  CRltT_wdr : ∀ x1 x2 y : CR,
+       x1 = x2  → (y < x1)%CR → (y < x2)%CR.
+Proof.
+  intros ? ? ? Heq.
+  apply CRltT_wd; auto.
+  reflexivity.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: Add a comment that these are operational type classes, only for notation.

File: reals/fast/CRSinCos.v [hunk 10]
```diff
@@ -0,0 +1,459 @@
...
+Class RealNumberPi (R : Type) := π : R.
+Instance CRpi_RealNumberPi_instance : RealNumberPi CR := CRpi.
+
+Class HalfNum (R : Type) := half_num : R.
+Notation "½" := half_num.
+Instance Q_Half_instance : HalfNum Q := (1#2)%Q.
+Instance CR_Half_instance : HalfNum CR := (inject_Q_CR (1#2)%Q).
+
+Close Scope Q_scope.
+
```
Comment (spitters) [inline reals/fast/CRSinCos.v]: There is a general tactic for rewriting between IR and the std lib reals.
Maybe it can be used as a template for rewriting between IR and CR ?
You seem to need to do more by hand than necessary.

File: reals/fast/CRcos.v [hunk 11]
```diff
@@ -245,30 +245,69 @@ Qed.
...
+Qed.
+
+Lemma cos_correct : forall x,
+  (IRasCR (Cos x) == cos (IRasCR x))%CR.
+Proof.
+  intros x.
+  rewrite cos_cos_slow.
+  apply cos_slow_correct.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRcos.v]: It's hard to check directly on github, but please make sure that this Instance is exported.

File: transc/MoreArcTan.v [hunk 12]
```diff
@@ -31,6 +31,149 @@ Proof.
...
+  eapply ap_wd; eauto;[| reflexivity].
+  apply pfwdef. reflexivity.
+Qed.
+
+Lemma cr_div_shiftr :
+  forall {F: CField} (x y z : F) zp,
+  z [#] [0]
+  -> (x [*] z [=] y <-> x [=] (y [/] z [//] zp)).
+Proof.
+  intros ? ? ? ? ? Hzp. split; intros Hm.
```
Comment (spitters) [inline transc/MoreArcTan.v]: `intros *`   ?

File: reals/fast/CRIR.v [hunk 13]
```diff
@@ -397,3 +397,88 @@ Proof.
...
+Instance Injective_instance_IRasCR : Injective  IRasCR.
+  constructor.
+- intros ? ? Heq. apply (fun_strext_imp_wd _ _ CRasIR) in Heq;
+    [ | apply R_morphism.map_strext].
+  repeat (rewrite IRasCRasIR_id in Heq).
+  exact Heq.
+- constructor; try apply st_isSetoid.
+  exact IRasCR_wd.
+Qed.
+
```
Comment (spitters) [inline reals/fast/CRIR.v]: This will not block the pull, but it should now be possible to use standard notation for e.g. `-`, the notation for `[--]` should be `(only parsing)` until we completely remove it.

**Comment by spitters** [comment]
@aa755 Great, thanks! Please address the suggestions and I will make merge.
